US06613747B2
Step A: 3-[4-(1H-pyrazol-1-yl)phenyl]-2-propyn-1-ol
A mixture of 1-(4-bromophenyl)-1H-pyrazole (prepared as described in Bull. Soc. Chim. Fr. 1966, 2832) (2.24 g, 10.04 mmol), Pd(Ph3P)2Cl2 (180 mg, 0.26 mmol), and copper(I) iodide (95 mg, 0.50 mmol) in TEA (20 mL) was stirred for 5 min, propargyl alcohol (0.70 mL, 12.02 mmol) was added, and the mixture was heated to 80° C. for 48 h. The volatiles were evaporated, ethyl acetate (50 mL) and water (50 mL) were added to the residue, and the mixture was filtered through a pad of Celite. The organic layer from the filtrate was washed with brine (50 mL), dried (Na2SO4), and concentrated. Purification by chromatography (SiO2, 3:2 hexane/ethyl acetate) yielded 0.73 g (37%) of the title compound as a brown solid. MS 199 (M+H)+.

reactant | 1-(4-bromophenyl)-1H-pyrazole | 10.04 mmol, 2.24 g | BrC1=CC=C(C=C1)N1N=CC=C1 | C9H7BrN2
reactant | propargyl alcohol | 12.02 mmol, 0.70 mL | C(C#C)O | C3H4O
catalyst | Pd(Ph3P)2Cl2 | 0.26 mmol, 180 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.50 mmol, 95 mg | [Cu]I
product | 3-[4-(1H-pyrazol-1-yl)phenyl]-2-propyn-1-ol | 0.73 g, 37% | N1(N=CC=C1)C1=CC=C(C=C1)C#CCO | C12H10N2O
